US07842688B2
a) tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[2-(4-methoxybutyrylamino)benzyloxy]piperidine-1-carboxylate
Analogously to Example 116b, 0.135 g of tert-butyl 3-(2-aminobenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0034 g of 4-methoxybutyryl chloride are reacted. The title compound is obtained as a beige oil. Rf=0.10 (1:1 EtOAc-heptane); Rt=5.86.

reactant | tert-butyl 3-(2-aminobenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.135 g | NC1=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=CC=C1 | C34H44N2O6
reactant | 4-methoxybutyryl chloride | COCCCC(=O)Cl | C5H9ClO2
product | tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[2-(4-methoxybutyrylamino)benzyloxy]piperidine-1-carboxylate | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2=C(C=CC=C2)NC(CCCOC)=O)C=CC=C1 | C39H52N2O8
